US09370515B2
Preparation of 2-(6-(3,4-dimethoxyphenylamino)imidazo[1,2-b]pyridazin-3-yl)thieno[3,2-c]pyridin-7-ol
To a solution of 2-(6-chloroimidazo[1,2-b]pyridazin-3-yl)thieno[3,2-c]pyridin-7-ol (50 mg, 0.165 mmol, 1.0 equiv), xantphos (19 mg, 0.0330 mmol, 0.2 equiv), palladium acetate (4 mg, 0.0165 mmol, 0.1 equiv), and potassium carbonate (456 mg, 3.30 mmol, 20 equiv) in dioxane (5.0 mL) was added 3,4-dimethoxyaniline (38 mg, 0.248 mmol, 1.5 equiv) and heated to 110° C. for 2 h. Purification by column chromatography using 2% methanol in dichloromethane elution gave 30 mg, of the brown solid, 43%.

reactant | 2-(6-chloroimidazo[1,2-b]pyridazin-3-yl)thieno[3,2-c]pyridin-7-ol | 0.165 mmol, 50 mg, 1.0 equiv | ClC=1C=CC=2N(N1)C(=CN2)C2=CC=1C=NC=C(C1S2)O | C13H7ClN4OS
reactant | xantphos | 0.0330 mmol, 19 mg, 0.2 equiv | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | potassium carbonate | 3.30 mmol, 456 mg, 20 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | 3,4-dimethoxyaniline | 0.248 mmol, 38 mg, 1.5 equiv | COC=1C=C(N)C=CC1OC | C8H11NO2
solvent | dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.0165 mmol, 4 mg, 0.1 equiv | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-(6-(3,4-dimethoxyphenylamino)imidazo[1,2-b]pyridazin-3-yl)thieno[3,2-c]pyridin-7-ol | COC=1C=C(C=CC1OC)NC=1C=CC=2N(N1)C(=CN2)C2=CC=1C=NC=C(C1S2)O | C21H17N5O3S
